US08124606B2
Tert-butyl 4-(4-(ethylcarbamoyl)-2-methylphenyl)piperazine-1-carboxylate (0.9323 g, 2.68 mmol) was diluted with 4.0M HCl in dioxane (8 mL) and stirred for 30 min. The thick white precipitate that formed was diluted with ethyl ether (10 mL) and stirred until a fine suspension resulted. The precipitate was filtered under nitrogen, washed with ether (5 mL) and dried in vacuum to afford N-ethyl-3-methyl-4-(piperazin-1-yl)benzamide hydrochloride (0.7528 g, 2.65 mmol, 99% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10 (t, J=7.20 Hz, 3H) 2.29 (s, 3H) 3.00-3.14 (m, 4H) 3.16-3.32 (m, 6H) 7.07 (d, J=8.34 Hz, 1H) 7.62-7.71 (m, 2H) 8.34 (t, J=5.43 Hz, 1H) 9.17 (br. s., 2H). ESI-MS: m/z 248.2 (M+H)+.

reactant | Tert-butyl 4-(4-(ethylcarbamoyl)-2-methylphenyl)piperazine-1-carboxylate | 2.68 mmol, 0.9323 g | C(C)NC(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C19H29N3O3
reactant | HCl | 4.0M | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
product | N-ethyl-3-methyl-4-(piperazin-1-yl)benzamide hydrochloride | 2.65 mmol, 0.7528 g, 99% yield | Cl.C(C)NC(C1=CC(=C(C=C1)N1CCNCC1)C)=O | InChI=1S/C14H21N3O.ClH/c1-3-16-14(18)12-4-5-13(11(2)10-12)17-8-6-15-7-9-17;/h4-5,10,15H,3,6-9H2,1-2H3,(H,16,18);1H
